US06831080B2
Step D: (±)-2,2,2-Trifluoro-1-(3-morpholin-4-yl-phenyl)ethylamine
A suspension of 2,2,2-trifluoro-1-(3-morpholin-4-yl-phenyl)-ethanone oxime (1.37 g) and Ra—Ni (1 mL) in a mixture of 3 ml of 30% ammonium hydroxide and 15 mL of MeOH was hydrogenated at 60 psi for 16 hours. The crude reaction mixture was filtered through Celite and the filtrate was concentrated in vacuo to give the title compound as an oil (1.3 g).

reactant | 2,2,2-trifluoro-1-(3-morpholin-4-yl-phenyl)-ethanone oxime | 1.37 g | FC(C(=NO)C1=CC(=CC=C1)N1CCOCC1)(F)F | C12H13F3N2O2
solvent | ammonium hydroxide | 3 ml | [OH-].[NH4+]
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Ra—Ni | 1 mL | [Ni] | Ni
product | (±)-2,2,2-Trifluoro-1-(3-morpholin-4-yl-phenyl)ethylamine | 1.3 g | FC(C(C1=CC(=CC=C1)N1CCOCC1)N)(F)F | C12H15F3N2O
